US05160662
Into 200 ml of dry DMF containing 2.0 g of sodium hydride (purity 60%), were added dropwise 9.2 g of S-form oa 1-trifluoromethyl-heptanol, at room temperature with such a speed not causing too rapid generation of hydrogen, to prepare sodium salt (alkoxide) of S-form oa 1-trifluoromethyl-heptanol. After the addition was over, stirring was continued further an hour at room temperature, followed by adding thereto 12.4 g of p-iodo-nitro-benzene and then refluxing for 2 hours. After cooling, the product was introduced into iced water, and extracted with hexane. The hexane phase was washed subsequently with water, 1N-hydrochloric acid aqueous solution and then water, followed by purifying with silica gell column to obtain 7.7 g of oily oa p-(1-trifluoromethylheptyloxy)- nitrobenzene.

reactant | sodium hydride | [H-].[Na+]
reactant | 1-trifluoromethyl-heptanol | FC(C(CCCCCC)O)(F)F | C8H15F3O
reactant | hydrogen | [H][H] | H2
reactant | sodium | [Na] | Na
reactant | p-iodo-nitro-benzene | 12.4 g | IC1=CC=C(C=C1)[N+](=O)[O-] | C6H4INO2
solvent | water | O | H2O
solvent | DMF | 200 ml, 2.0 g | CN(C)C=O | C3H7NO
product | p-(1-trifluoromethylheptyloxy)- nitrobenzene | FC(C(CCCCCC)OC1=CC=C(C=C1)[N+](=O)[O-])(F)F | C14H18F3NO3
